US08222263B2
A mixture of N-(5-cyano-2-methylphenyl)-4-[(4-phenylquinazolin-2-yl)amino]benzamide (273 mg, 0.600 mmol), prepared as described in Example 10, trimethylsilylazide (160 μL, 1.2 mmol), and dibutyltin oxide (36 mg, 0.060 mmol) in dimethoxyethane (6 mL) was reacted in the microwave reactor (120° C., 100 psi, 2). The reaction was then concentrated on a rotary evaporator and the residue was purified by preparative reverse phase HPLC to give N-[2-methyl-5-(1H-tetrazol-5-yl)phenyl]-4-[(4-phenylquinazolin-2-yl)amino]benzamide (242 mg, 81%) as a yellow solid. 1H NMR (400 MHz, DMSO-d6): δ 10.36 (s, 1H), 9.91 (s, 1H), 8.20 (d, 2H), 8.13 (d, 1H), 8.03 (d, 2H), 7.91-7.79 (m, 5H), 7.67-7.63 (m, 3H), 7.53 (d, 1H), 7.42 (ddd, 1H), 2.36 (s, 3H). MS (EI) for C29H22N8O: 499.3 (MH+).

reactant | N-(5-cyano-2-methylphenyl)-4-[(4-phenylquinazolin-2-yl)amino]benzamide | 0.600 mmol, 273 mg | C(#N)C=1C=CC(=C(C1)NC(C1=CC=C(C=C1)NC1=NC2=CC=CC=C2C(=N1)C1=CC=CC=C1)=O)C | C29H21N5O
reactant | trimethylsilylazide | 1.2 mmol, 160 μL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | dibutyltin oxide | 0.060 mmol, 36 mg | C(CCC)[Sn](CCCC)=O
solvent | dimethoxyethane | 6 mL | C(OC)COC | C4H10O2
product | N-[2-methyl-5-(1H-tetrazol-5-yl)phenyl]-4-[(4-phenylquinazolin-2-yl)amino]benzamide | 242 mg, 81% | CC1=C(C=C(C=C1)C1=NN=NN1)NC(C1=CC=C(C=C1)NC1=NC2=CC=CC=C2C(=N1)C1=CC=CC=C1)=O | C29H22N8O
